US07816557B2
Racemic 3-{4-[5,5,5-trifluoro-1-(3′-fluoro-4′-trifluoromethyl-biphenyl-4-yloxy)-pentyl]-benzoylamino}-propionic acid
The title compound is prepared in a manner substantially similar to Example 359 starting from 3-(4-{5,5,5-trifluoro-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-pentyl}-benzoylamino)-propionic acid methyl ester and 4-bromo-2-fluoro-1-trifluoromethyl-benzene. MS: 570.2 [M−H]−.

reactant | 3-(4-{5,5,5-trifluoro-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-pentyl}-benzoylamino)-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)=O | C28H35BF3NO6
reactant | 4-bromo-2-fluoro-1-trifluoromethyl-benzene | BrC1=CC(=C(C=C1)C(F)(F)F)F | C7H3BrF4
product | Racemic 3-{4-[5,5,5-trifluoro-1-(3′-fluoro-4′-trifluoromethyl-biphenyl-4-yloxy)-pentyl]-benzoylamino}-propionic acid | FC(CCCC(OC1=CC=C(C=C1)C1=CC(=C(C=C1)C(F)(F)F)F)C1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C28H24F7NO4
